US04469866
Standard Method for Preparation of Piroxicam
To a five liter flask equipped with thermometer, packed distillation column, condenser, and stirrer, under a nitrogen atmosphere is added 3300 ml mixed xylenes, 80 g (0.297 mole) methyl 3,4-dihydro-2-methyl-4-oxo-2H-1,2-benzothiazine-3-carboxylate-1,1-dioxide, 32 g (0.340 mole) 2-aminopyridine and 8 g of activated carbon (Darco G-60* or Darco KBB*). The mixture is heated at reflux (ca. 140° C.) for 28 hours while slowly distilling off methanol and xylene at a rate of about 25 ml per hour for the first 8 hours, then at a rate of 5-10 ml per hour for the remaining reflux period, while adding fresh xylene to maintain a reaction volume of about 3500 ml. After 28 hours, the reaction mixture is cooled slightly (~100° C.) and filtered to remove carbon. The carbon cake was washed with warm xylene (100 ml), the filtrate and washings cooled slowly under a nitrogen atmosphere with rapid stirring to 25°-50° C. Stirring was continued for one hour to allow for complete crystallization. The crystals were collected by filtration, the mother liquor concentrated to about 1500 ml, cooled under nitrogen to 0°-5° C., filtered, the cake washed with 100 ml cold xylene and the crystals dried under vacuum below 60° C. for several hours. The yield is 76.7-84.6 g (78-86% of theory). Average throughput 24.4 g/liter of solvent.

reactant | methyl 3,4-dihydro-2-methyl-4-oxo-2H-1,2-benzothiazine-3-carboxylate-1,1-dioxide | 0.297 mole, 80 g | CN1S(C2=C(C(C1C(=O)OC)=O)C=CC=C2)(=O)=O | C11H11NO5S
reactant | 2-aminopyridine | 0.340 mole, 32 g | NC1=NC=CC=C1 | C5H6N2
product | Piroxicam | CN1C(=C(C=2C=CC=CC2S1(=O)=O)O)C(=O)NC=3C=CC=CN3 | C15H13N3O4S
